US07601711B2
4-[2-(1,1-dioxo-thiomorpholine-4-carbonyl)-1-isopropyl-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester
The title compound was synthesized in analogy to Example 1, from 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid, thiomorpholine 1,1-dioxide and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride, to afford the product as an off-white solid (85%).

reactant | 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)O | C23H31N3O5
reactant | thiomorpholine 1,1-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
product | 4-[2-(1,1-dioxo-thiomorpholine-4-carbonyl)-1-isopropyl-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)N1CCS(CC1)(=O)=O | C27H38N4O6S
